US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-N4-(3,5-dimethoxyphenyl)-5-fluoro-4-pyrimidineamine with 2-ethoxycarbonyl-7-aminoindole gave N4-(3,5-dimethoxyphenyl)-N2-(2-ethoxycarbonylindol-7-yl)-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 24.21 min.; purity: 91%; MS (m/e): 452 (MH+).

reactant | 2-chloro-N4-(3,5-dimethoxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC(=C1)OC)OC)F | C12H11ClFN3O2
reactant | 2-ethoxycarbonyl-7-aminoindole | C(C)OC(=O)C=1NC2=C(C=CC=C2C1)N | C11H12N2O2
product | N4-(3,5-dimethoxyphenyl)-N2-(2-ethoxycarbonylindol-7-yl)-5-fluoro-2,4-pyrimidinediamine | COC=1C=C(C=C(C1)OC)NC1=NC(=NC=C1F)NC=1C=CC=C2C=C(NC12)C(=O)OCC | C23H22FN5O4
